US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-3-hydroxybenzamide
A solution of 3-acetoxybenzoic acid (130 g, 0.69 mol) in thionyl chloride (400 mL) was stirred at ambient temperature for 4 days. The excess of thionyl chloride was evaporated in vacuo, the residue was treated with toluene and again the solvent was removed in vacuo. Crude acid chloride (100 mg, 0.52 mmol) was dissolved in methylene chloride (5 mL) and added dropwise to an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (120 mg, 0.50 mmol) and triethylamine (100 μL, 0.75 mmol) in methylene chloride (20 mL). After the addition, the reaction was allowed to stir at ambient temperature for 15 min and was then washed with dilute aqueous sodium hydrogen carbonate. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo. The residue was dissolved in 99.5% ethanol (25 mL) and concentrated hydrochloric acid (5 mL) was added. After 17 h, the pH was adjusted to 8 and the solvent evaporated in vacuo. The residue was partitioned between water and methylene chloride. The organic phase was separated, dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:4) as the eluent. Yield: 93 mg (51%) of the title compound as white crystals: mp 117° C. decomp; [α]21D -10° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 365 (22, M+).

reactant | 3-acetoxybenzoic acid | 0.69 mol, 130 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.50 mmol, 120 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.75 mmol, 100 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 400 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-3-hydroxybenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC(=CC=C1)O)=O | C22H27N3O2
